US06369110B1
1-(3-Chlorophenyl)-1-buten-3-one (20.0 g, 111 mmol) was subjected to hydrogen catalytic reduction in ethanol (200 ml) at room temperature by using platinum oxide (PtO2; 0.30 g) as a catalyst. The catalyst was filtered off and the resulting filtrate was concentrated under reduced pressure. The resulting residue was purified by a silica gel column chromatography to obtain 11.1 g of 1-(3-chlorophenyl)butan-3-one.

reactant | 1-(3-Chlorophenyl)-1-buten-3-one | 111 mmol, 20.0 g | ClC=1C=C(C=CC1)C=CC(C)=O | C10H9ClO
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.30 g | [Pt]=O
product | 1-(3-chlorophenyl)butan-3-one | 11.1 g | ClC=1C=C(C=CC1)CCC(C)=O | C10H11ClO
